US07776910B2
A solution of sodium borohydride (389 mg) in water (1.82 mL) was added to a solution of (S)-3-(4-bromo-2-methoxy-phenyl)-4-((S)-4-isopropyl-2-oxo-oxazolidin-3-yl)-4-oxo-butyronitrile (749 mg, 1.895 mmol) in THF (6 mL) under nitrogen atmosphere. The mixture was stirred at room temperature for three hours. The reaction mixture was cooled to 0° C. and a solution of 10% KHSO4/Na2SO4 was carefully added. After the gas evolution stopped, the mixture was extracted with EtOAc. The combined organic extracts were washed with brine, dried over Na2SO4, filtered, and evaporated under reduced pressure. The residue was purified via flash chromatography (hexane/EtOAc, 7/3) to give 470 mg (92% yield) of (S)-3-(4-bromo-2-methoxy-phenyl)-4-hydroxy-butyronitrile.

reactant | sodium borohydride | 389 mg | [BH4-].[Na+]
reactant | (S)-3-(4-bromo-2-methoxy-phenyl)-4-((S)-4-isopropyl-2-oxo-oxazolidin-3-yl)-4-oxo-butyronitrile | 1.895 mmol, 749 mg | BrC1=CC(=C(C=C1)[C@H](CC#N)C(=O)N1C(OC[C@@H]1C(C)C)=O)OC | C17H19BrN2O4
reactant | KHSO4 Na2SO4 | OS(=O)(=O)[O-].[K+].[O-]S(=O)(=O)[O-].[Na+].[Na+]
solvent | water | 1.82 mL | O | H2O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | (S)-3-(4-bromo-2-methoxy-phenyl)-4-hydroxy-butyronitrile | 470 mg, 92% yield | BrC1=CC(=C(C=C1)[C@H](CC#N)CO)OC | C11H12BrNO2
